* Z:\media\data\CODES\LTSpice_projects\diskret_op_eas_labor\ausgangsbegr.asc
Q9 c0 N004 N001 0 CA3096_pnp
Q10 out N004 N002 0 CA3096_pnp
Q11 N004 N004 N003 0 CA3096_pnp
RE11 V+ N003 1.2k
RE10 V+ N002 1.2k
Re9a V+ N001 33k
Re9b P001 N001 10k
Rref N004 V- 39k
Q2 C4 IN+ N008 0 CA3096_pnp
Q1 C3 IN- N007 0 CA3096_pnp
RE1 c0 N007 1.8k
RE2 c0 N008 1.8k
R克D1 c0 N007 {JD1}
R克D2 c0 N008 {JD2}
Q3 C3 N011 N013 0 CA3046
Q4 C4 N011 N015 0 CA3046
Rpos1 N014 N013 {(1-off)*Ros}
R克2 N013 V- {J2}
R克3 N015 V- {J3}
RE3 N013 V- 1k
RE4 N015 V- 1k
R克1 N011 C3 {J1}
Rpos2 N015 N014 {off*Ros}
R克4 N014 V- {J4}
V1 N005 0 5
V2 N006 0 -5
V4 N009 0 SINE(0 {amp} {fin})
R克10 V+ P001 {J10}
R克5 C4 N010 {J5}
Ccomp1 out P002 33p
Q5 out N012 V- 0 CA3046
Q6 out C4 N012 0 CA3046
RE5 N012 V- 22k
Rs1 P002 N010 1n
V3 fin 0 SINE(0 {10/5.6} {-fin})
V5 fin_105 0 SINE(0 1 {fin*1.05})
V6 fin_115 0 SINE(0 1 {fin*1.15})
R1 N009 IN+ 1
R2 IN- out 1
R4 V+ N005 1m
R5 V- N006 1m
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
* Stromquellen-\nBank
* PNP-\nDiff. stufe
* Stromspiegel
* X *
.param J10 = OPEN
.param JD1 = CLOSE
.param JD2 = CLOSE
.param J1 = CLOSE
.param J2 = OPEN
.param J3 = OPEN
.param J4 = OPEN
.param J5 = CLOSE
.param J7 = CLOSE
.tran 0 {2/fin} 0
* .step param off 0.7 0.999 0.1
* Darlington- Stufe
.param open = 100meg
.param close = 1u
.param Ros = 1k
.param off = 0.5
* * Y *\n.param J10 = CLOSE\n.param JD1 = OPEN\n.param JD2 = OPEN\n.param J1 = CLOSE\n.param J2 = OPEN\n.param J3 = OPEN\n.param J4 = OPEN\n.param J5 = CLOSE\n.param J7 = CLOSE
.param fin = 100
.param amp = 2.25
*.step param fin list 45k 50k 53k 70k
.step param amp 3 5 0.5
* .step param J10 list 1m 100meg
.backanno
.end
